US04379154
A mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 100 cc) is added dropwise and in the course of 10 minutes to a 1.6 M solution of n-butyllithium in hexane (138 cc), kept under an argon atmosphere and at a temperature of about -60° C. A solution of 2-(quinol-2-yl)-tetrahydrothiophen (31 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 100 cc) is then added in the course of 15 minutes. After stirring for 5 minutes, a solution of carbon disulphide (17 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 100 cc) is added dropwise in the course of 15 minutes and at the same temperature. After stirring for 5 minutes, a solution of methyl iodide (32 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 100 cc) is added dropwise and in the course of 25 minutes. The reaction mixture is subsequently stirred for 45 minutes at - 65° C. and then for 45 minutes, whilst allowing the temperature to rise gradually to about 20° C. It is then run into a mixture of distilled water (750 cc) and ethyl acetate (450 cc). After decantation, the aqueous phase is extracted with ethyl acetate (250 cc). The organic extracts are combined, washed three times with distilled water (2250 cc in total), dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 70° C. The product obtained (57 g) is chromatographed on neutral silica gel (550 g) contained in a column of diameter 5.2 cm; the column is then eluted with a cyclohexane/ethyl acetate mixture (95/5 by volume; 1000 cc) and with a cyclohexane/ethyl acetate mixture (90/10 by volume; 1000 cc), 500 cc fractions being collected. Fractions 1 to 3 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 50° C.; a crude product (36.6 g) is thus obtained. 14 g thereof are dissolved in boiling diisopropyl ether (70 cc); decolourising charcoal (0.3 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 2 hours at a temperature of about 5° C. The resulting crystals are filtered off, washed with diisopropyl ether (7 cc) and then twice with petroleum ether (30 cc in total). After drying under reduced pressure (1 mm Hg; 0.13 kPa) at 45° C., methyl 2-(quinol-2-yl)-tetrahydrothiophen-2-carbodithioate (8.9 g), melting at 72° C., is obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(quinol-2-yl)-tetrahydrothiophen | 31 g | N1=C(C=CC2=CC=CC=C12)C1SCCC1 | C13H13NS
reactant | methyl iodide | 32 g | CI | CH3I
reactant | diisopropyl ether | 70 cc | C(C)(C)OC(C)C | C6H14O
reactant | charcoal | 0.3 g | C | CH4
reactant | carbon disulphide | 17 g | C(=S)=S | CS2
solvent | hexane | 138 cc | CCCCCC | C6H14
solvent | ethyl acetate | 450 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 750 cc | O | H2O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
product | methyl 2-(quinol-2-yl)-tetrahydrothiophen-2-carbodithioate | 8.9 g | N1=C(C=CC2=CC=CC=C12)C1(SCCC1)C(=S)SC | C15H15NS3
